US06599902B2
A mixture of 4-[2-({5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carbonyl}-amino)-ethyl]-piperazine-1-carboxylic acid tert-butyl ester (370 mg, 0.52 mmol) and TFA (3 mL) in DCM (20 mL) was stirred at rt for overnight. The reaction was concentrated and purified to give 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-piperazin-1-yl-ethyl)-amide.

reactant | 4-[2-({5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carbonyl}-amino)-ethyl]-piperazine-1-carboxylic acid tert-butyl ester | 0.52 mmol, 370 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CCNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C | C34H39Cl2N5O6S
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-piperazin-1-yl-ethyl)-amide | N1(CCNCC1)CCNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C | C29H31Cl2N5O4S
